US08022062B2
7-Chloro-6-(4-cyanobutylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 387 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with 5-bromovaleronitrile. Purify by preparative reverse phase HPLC (Column: Xterra Prep RP18 19×250 mm; Solvent A: 10 mM aqueous ammonium carbonate, Solvent B: acetonitrile; 30-100% B over 20 minutes; flow rate 25 mL/min). Use a method similar to the General Procedure 2-2 to give the title compound as an off-white solid. MS (APCI+) m/z: 295 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 5-bromovaleronitrile | BrCCCCC#N | C5H8BrN
product | 7-Chloro-6-(4-cyanobutylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCCCCC#N | InChI=1S/C15H19ClN2S.ClH/c16-14-5-4-12-6-9-18-10-7-13(12)15(14)19-11-3-1-2-8-17;/h4-5,18H,1-3,6-7,9-11H2;1H
